US04281000
7-(6-Methyl-2-pyridyl)pyrazolo[1,5-a]pyrimidine
A mixture of 0.84 g. of 3-aminopyrazole and 1.90 g. of 3-dimethylamino-1-(6-methyl-2-pyridyl)-2-propen-1-one and 25. ml. of glacial acetic acid is heated on a steam bath for 4 hours. The solvent was removed under reduced pressure. The residue is dissolved in dichloromethane and the solution passed through a short column of hydrous magnesium silicate. The element is concentrated and diluted with hexane to give 1.15 g. of crystals, m.p. 126°-127° C.

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | 3-dimethylamino-1-(6-methyl-2-pyridyl)-2-propen-1-one | CN(C=CC(=O)C1=NC(=CC=C1)C)C | C11H14N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(6-Methyl-2-pyridyl)pyrazolo[1,5-a]pyrimidine | CC1=CC=CC(=N1)C1=CC=NC=2N1N=CC2 | C12H10N4
